US08802728B2
Add dropwise hexahydro-1H-inden-4(2H)-one (1.6 g, 11.6 mmol) in dry THF (5 mL) to a solution of LDA (23.2 mL, 23.2 mmol) in THF (30 mL). Stir the reaction mixture for 30 min and then add dropwise TMSCl (3.5 g, 32.0 mmol) to the reaction mixture. Stir the resultant solution for additional 1 hour. Pour the mixture into ice water (50 mL) and extract the aqueous mixture with EtOAc (50 mL×3). The combined organic layers are washed with brine, dried over MgSO4, filtered and concentrated in vacuo to afford crude (2,3,3a,6,7,7a-hexahydro-1H-inden-4-yloxy)trimethylsilane (2.45 g, 100%) as yellowish oil, MS (m/z): 209 (M−1).

reactant | hexahydro-1H-inden-4(2H)-one | 11.6 mmol, 1.6 g | C1CCC2C(CCCC12)=O | C9H14O
reactant | LDA | 23.2 mmol, 23.2 mL | [Li+].CC(C)[N-]C(C)C
reactant | TMSCl | 32.0 mmol, 3.5 g | C[Si](C)(C)Cl | C3H9ClSi
solvent | THF | 5 mL | C1CCOC1 | C4H8O
solvent | THF | 30 mL | C1CCOC1 | C4H8O
product | (2,3,3a,6,7,7a-hexahydro-1H-inden-4-yloxy)trimethylsilane | 2.45 g, 100% | C1CCC2C(=CCCC12)O[Si](C)(C)C | C12H22OSi
